US07691882B2
(6-(3-Fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride
To a methanol (20 mL) solution of 2-(3-fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine (1.96 g, 7.47 mmol) described in Manufacturing Example 71-1-3 was added lithium methoxide (567 mg, 14.9 mmol), which was stirred for 35 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure. Titanium (IV) tetrachloride (1.81 mL, 16.4 mmol) was added under nitrogen atmosphere to a tetrahydrofuran (20 mL) and methylene chloride (20 mL) suspension of the residue, and stirred for 1 hour 15 minutes at 0° C. Water was added to the reaction mixture at 0° C., which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (2.1 g, quant.). This compound was used in the subsequent reaction without further purification.

reactant | methanol | 20 mL | CO | CH4O
reactant | 2-(3-fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine | 7.47 mmol, 1.96 g | FC=1C=C(OC2=NC=C(C=C2)CC[N+](=O)[O-])C=CC1 | C13H11FN2O3
reactant | lithium methoxide | 14.9 mmol, 567 mg | C[O-].[Li+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Titanium (IV) tetrachloride | 16.4 mmol, 1.81 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
product | (6-(3-Fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride | 2.1 g | FC=1C=C(OC2=CC=C(C=N2)CC(=NO)Cl)C=CC1 | C13H10ClFN2O2
